US06265349B1
Preparation of 3-[4-chloro-2-fluoro-5-(1-oxobutyl)phenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-194)
0.21 g (1.64 mmol) of oxalyl chloride was dissolved in 10 ml of dichloromethane and cooled to −65° C. In a nitrogen atmosphere, 0.17 g (2.18 mmol) of dimethylsulfoxide was slowly dropwise added thereto, followed by stirring for 15 minutes. Then, 0.31 g (0.82 mmol) of 3-[4-chloro-2-fluoro-5-(1-hydroxybutyl)phenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 10 ml of dichloromethane and dropwise added thereto, followed by stirring for 1 hour. Further, 0.42 g (4.1 mmol) of triethylamine was dropwise added thereto, followed by heating to room temperature. An aqueous ammonium chloride solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.29 g (yield: 94%) of the desired product. 1H-NMR (300 MHz, CDCl3) σ value: 0.99(3H,t), 1.74(2H,sext), 2.94(2H,t), 3.70(3H,s), 6.78(1H,d), 7.25(1H,d), 7.53(1H,d), 7.75(1H,d)ppm.

reactant | oxalyl chloride | 1.64 mmol, 0.21 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.18 mmol, 0.17 g | CS(=O)C | C2H6OS
reactant | 3-[4-chloro-2-fluoro-5-(1-hydroxybutyl)phenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.82 mmol, 0.31 g | ClC1=CC(=C(C=C1C(CCC)O)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C17H16ClF4NO2
reactant | triethylamine | 4.1 mmol, 0.42 g | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[4-chloro-2-fluoro-5-(1-oxobutyl)phenyl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.29 g, yield: 94% | ClC1=CC(=C(C=C1C(CCC)=O)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C17H14ClF4NO2
